Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / fluconazole / 
Strawberry
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ RH woman with a history of HTN, TIA,
and one prior episode of peripheral vertigo who presents with 24
hours of dizziness and vomiting. She reports that she was in her
usual state of health until 2 days ago, when she had a brief
(several second) episode of room-spinning vertigo when on a boat
in the ___. This resolved with sitting and did not
recur. Yesterday evening at 5pm, she felt light-headed upon
standing and then sat down but noticed the room seemed like it
was spinning; she does not recall which direction it was moving.
She said the spinning persisted for several hours and she had
several episodes of NBNB emesis at 7pm. She eventually fell
asleep but said she had to keep still, lying on her side, in
order to sleep. This morning, the spinning sensation was still
present and became more severe after taking a shower. She had
multiple episodes of emesis this AM and had some trouble walking
though was not falling to one side or another.  

Given this, Mrs. ___ was brought to her PCP for further
evaluation.  There, there was concern about inferior-lead T-wave
inversion and she was sent in for further evaluation.  At this
point, Ms. ___ describes that she does not feel like she is
spinning but she becomes very uncomfortable upon changing
position (sitting and standing) and the spinning recurs.
Otherwise, she endorses a feeling of her head being heavy. She
denies any recent history of fever, rhinorrhea, ear pain, throat
pain, new hearing loss or sick contacts and denies neck trauma.

On neuro ROS, Ms. ___ denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, tinnitus, new
hearing loss, confusion, difficulties producing or comprehending
speech, focal weakness, numbness, parasthesiae. No bowel or
bladder incontinence or retention. Endorses difficulty with gait
described above.

 
Past Medical History:
Asthma: secondary to second-hand smoke
HTN
Hypercholesterolemia (? reported in ___ but denied by 
patient)
GERD
Vertigo: had one episode one year ago, CT was negative, improved
with meclizine
Osteoarthritis of knee 
Dermatitis, eczematous 
Mitral valve insufficiency 

 
Social History:
___
Family History:
Mother & maternal grandmother with stroke. Father
and daughter with cancer. Grandmother with CAD/PVD.

 
Physical Exam:
Vitals: T 98, HR 48, BP 154/53, RR 16, BP 100%RA
General: Awake, cooperative, NAD. Laying in bed but on sitting 
or
standing looks pale and uncomfortable.
HEENT: NC/AT. Anicteric. Dry mucous membranes, OP clear. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, ___ systolic murmur best heard at RUSB
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted. Multiple nevi on face
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes even with
prompting.  Calculation could not be done (9quarters = $9). 
There
was no evidence of left-right confusion.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and ___.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: Flattening of R NLF fold. Facial musculature activates
symmetrically.
VIII: Diminished hearing, left moreso than right.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch or cold sensation. 
Vibration
diminished bl. Proprioception relatively intact (misses ___. No
extinction to DSS.
-DTRs: ___ bilaterally with pectoralis and suprapatellar 
reflex
on R. Toes downgoing bl. 
  Bi Tri ___ Pat Ach
L 2+  2+    2    2   1
R 2+  2+    2    2   1
-Coordination: No intention tremor. There was mild overshoot on
left with mirroring but otherwise, there was no dysmetria on FNF
or HKS bilaterally and RAM were symmetric.
-Gait: Good initiation. Slightly wide-based but steady gait. She
was not able to tandem gait., normal stride and arm swing.  Able
to walk in tandem without difficulty. Romberg absent.
 

 
Pertinent Results:
___ 05:55AM   GLUCOSE-86 UREA N-15 CREAT-0.7 SODIUM-144 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-30 ANION GAP-15
___ 05:55AM   cTropnT-<0.01
___ 05:55AM   CALCIUM-8.8 PHOSPHATE-3.6 MAGNESIUM-2.4
___ 05:55AM   %HbA1c-5.5 eAG-111
___ 05:55AM   WBC-8.7 RBC-4.60 HGB-12.8 HCT-38.2 MCV-83 
MCH-27.9 MCHC-33.6 RDW-14.0
___ 05:55AM   PLT COUNT-323
___ 09:49PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:49PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-NEG
___ 05:45PM   GLUCOSE-92 UREA N-18 CREAT-0.7 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-23 ANION GAP-17
___ 05:45PM   estGFR-Using this
___ 05:45PM   ALT(SGPT)-15 AST(SGOT)-25 ALK PHOS-64 TOT 
BILI-0.5
___ 05:45PM   LIPASE-17
___ 05:45PM   cTropnT-<0.01
___ 05:45PM   ALBUMIN-4.1 CALCIUM-9.4 PHOSPHATE-2.8 
MAGNESIUM-2.2
___ 05:45PM   NEUTS-66.0 ___ MONOS-4.7 EOS-1.4 
BASOS-0.4
___ 05:45PM   PLT COUNT-373
___ 05:45PM   ___ PTT-32.2 ___

CXR ___
No acute cardiopulmonary process.  

CT head ___
No acute intracranial findings.  

CTA head and neck ___
No significant vessel stenosis or aneurysm.

MR head ___
1.  No evidence of acute stroke.   
2.  Increased signal in the right optic nerve of unknown 
significance, 
recommend clinical correlation.   

 
Brief Hospital Course:
Ms. ___ is a ___ RH woman with a history
of HTN, TIA, and one prior episode of presumably peripheral
vertigo who presents with 24 hours of dizziness and vomiting.
Given the history of significant spinning, seemingly worse with
movement, and the exam showing predominantly right beating
nystagmus, most prominent when looking to the right, as well as 
a
positive head impulse test on left head turn without skew
deviation, a peripheral etiology of this woman's symtpoms is 
most
likely. There is no history of infection that would be a reason 
for a
vestibular neuropathy/labrynthitis. As this patient does
have several vascular risk factors including evidence of prior
strokes on CT, she was admitted for further evaluation.  Her CT, 
CTA, and MRI were all unremarkable and would not explain her 
vertigo. Given that she does have chronic hearing loss on the 
left side, we think that her vertigo is most likely peripheral.  
For risk factor assessment: her a1c was 5.5. LDL is pending at 
this time. There was no medication changes made in this 
admission.  Patient was symptomatically much improved on the day 
of discharge.
 
Medications on Admission:
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN shortness of breath 
2. Aspirin 81 mg PO DAILY 
3. Loratadine 10 mg PO DAILY 
4. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation bid 
5. Vitamin D 1000 UNIT PO DAILY 
6. Amlodipine 5 mg PO DAILY 
7. Calcium Carbonate 500 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
10. Ibuprofen 800 mg PO Q8H:PRN pain 
11. Omeprazole 20 mg PO DAILY 
12. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
13. ZyrTEC (cetirizine) 10 mg Oral qd 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN shortness of breath 
2. Aspirin 81 mg PO DAILY 
3. Loratadine 10 mg PO DAILY 
4. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation bid 
5. Vitamin D 1000 UNIT PO DAILY 
6. Amlodipine 5 mg PO DAILY 
7. Calcium Carbonate 500 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
10. Ibuprofen 800 mg PO Q8H:PRN pain 
11. Omeprazole 20 mg PO DAILY 
12. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
13. ZyrTEC (cetirizine) 10 mg Oral qd 
14. Outpatient Physical Therapy
Outpatient vestibular physical therapy. ICD-9 386.19.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro exam: Non-focal

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you.  You were in the hospital 
because of spinning sensation.  We think you have peripheral 
vertigo.  Your CT, CTA and MRI showed no evidence of a stroke.  
Please work with vestibular phyical therapy as an outpatient.

There has been no medication changes made.  Please continue to 
take all your home medications as previously prescribed.

Call your doctor or go to the emergency room if you experience 
any of the danger signs listed below.
 
Followup Instructions:
___